US09422281B2
Intermediate 20. ethyl (S)-7-(1-cyclopropyl-1H-pyrazol-4-yl)-3-methyl-3,4-dihydro-quinoxaline-1(2H)-carboxylate
Ethyl (S)-7-(1-cyclopropyl-1H-pyrazol-4-yl)-3-methyl-3,4-dihydroquinoxaline-1(2H)-carboxylate was prepared according to the procedure outlined for (S)-furan-2-yl(3-methyl-7-(4-(methylsulfonyl)phenyl)-3,4-dihydroquinoxaline-1(2H)-yl)methanone, substituting ethyl chloroformate for furan-2-carbonyl chloride in Step 1 and 1-cyclopropyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole for 4-(methylsulfonyl)phenylboronic acid in Step 2 to afford the desired product. MS (ESI, pos. ion) m/z 327 [M+1]+.

reactant | (S)-furan-2-yl(3-methyl-7-(4-(methylsulfonyl)phenyl)-3,4-dihydroquinoxaline-1(2H)-yl)methanone | O1C(=CC=C1)C(=O)N1C[C@@H](NC2=CC=C(C=C12)C1=CC=C(C=C1)S(=O)(=O)C)C | C21H20N2O4S
reactant | furan-2-carbonyl chloride | O1C(=CC=C1)C(=O)Cl | C5H3ClO2
reactant | 1-cyclopropyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | C1(CC1)N1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C12H19BN2O2
reactant | 4-(methylsulfonyl)phenylboronic acid | CS(=O)(=O)C1=CC=C(C=C1)B(O)O | C7H9BO4S
product | ethyl (S)-7-(1-cyclopropyl-1H-pyrazol-4-yl)-3-methyl-3,4-dihydro-quinoxaline-1(2H)-carboxylate | C1(CC1)N1N=CC(=C1)C1=CC=C2N[C@H](CN(C2=C1)C(=O)OCC)C | C18H22N4O2
